### PR TITLE
feat(Arxiv/2602.05192): problem 4

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+$$
+c_k = \sum_{i+j=k} \frac{(n-i)! (n-j)!}{n! (n-k)!} a_i b_j
+$$
+for $k = 0, 1, \dots, n$.
+ -/
+noncomputable def finiteAdditiveConvolution (n : ℕ) (p q : F[X]) : F[X] :=
+  let c := fun k  => ∑ ij ∈ antidiagonal (k : ℕ),
+      ((n - ij.1)! * (n - ij.2)! : F) / (n ! * (n - k)! : F) *
+      (p.coeff (n - ij.1)) * (q.coeff (n - ij.2))
+  ∑ k ∈ range (n + 1),  (c k) • X^(n - k)
```
Comment (seewoo5) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]:
```suggestion
  ∑ k ∈ range (n + 1), (c k) • X^(n - k)
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (n : ℕ) (p : ℝ[X]) : ℝ≥0∞ :=
+  if p.Monic ∧ p.degree = n ∧ p.roots.Nodup then
+    let roots := p.roots.toFinset
+    (∑ i ∈ roots, (∑ j ∈ roots.erase i, (1 : ℝ) / (i - j))^(2 : ℝ)).toNNReal
```
Comment (smmercuri) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: Are these explicit casts needed?  I would expect them to coerce automatically since `i` and `j` are real
```suggestion
    (∑ i ∈ roots, (∑ j ∈ roots.erase i, 1 / (i - j)) ^ 2).toNNReal
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+(p \boxplus_n q)(x) = \sum_{k=0}^n c_k x^{n-k}
+$$
+where the coefficients $c_k$ are given by the formula:
+$$
+c_k = \sum_{i+j=k} \frac{(n-i)! (n-j)!}{n! (n-k)!} a_i b_j
+$$
+for $k = 0, 1, \dots, n$.
+ -/
+noncomputable def finiteAdditiveConvolution (n : ℕ) (p q : F[X]) : F[X] :=
+  let c := fun k  => ∑ ij ∈ antidiagonal (k : ℕ),
```
Comment (smmercuri) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]:
```suggestion
  let c := fun k => ∑ ij ∈ antidiagonal (k : ℕ),
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+Note: while no proof of this is published yet, the authors of
+[arxiv/2602.05192](https://arxiv.org/abs/2602.05192) announced that a proof will be released
+on 2026-02-13
+
+TODO(firsching): update category and remove Note when proof is published.
+-/
+@[category research open, AMS 26]
+theorem four : answer(sorry) ↔
+    ∀ (p q : ℝ[X]) (n : ℕ), p.degree = n → p.roots.card = n → q.degree = n → p.Monic → q.Monic →
+    1 / Φ n (p (⊞_n) q) ≥ 1 / Φ n p + 1 / Φ n q := by
```
Comment (smmercuri) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: nit: I think we prefer `le` over `ge`
```suggestion
    1 / Φ n p + 1 / Φ n q ≤ 1 / Φ n (p (⊞_n) q) := by
```

Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: I chose this order, because it was this way in the paper, but have no strong feelings about it...

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+$$
+c_k = \sum_{i+j=k} \frac{(n-i)! (n-j)!}{n! (n-k)!} a_i b_j
+$$
+for $k = 0, 1, \dots, n$.
+ -/
+noncomputable def finiteAdditiveConvolution (n : ℕ) (p q : F[X]) : F[X] :=
+  let c := fun k => ∑ ij ∈ antidiagonal (k : ℕ),
+      ((n - ij.1)! * (n - ij.2)! : F) / (n ! * (n - k)! : F) *
+      (p.coeff (n - ij.1)) * (q.coeff (n - ij.2))
+  ∑ k ∈ range (n + 1), (c k) • X^(n - k)
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: nit:

```suggestion
  ∑ k ∈ range (n + 1), c k • X^(n - k)
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+where the coefficients $c_k$ are given by the formula:
+$$
+c_k = \sum_{i+j=k} \frac{(n-i)! (n-j)!}{n! (n-k)!} a_i b_j
+$$
+for $k = 0, 1, \dots, n$.
+ -/
+noncomputable def finiteAdditiveConvolution (n : ℕ) (p q : F[X]) : F[X] :=
+  let c := fun k => ∑ ij ∈ antidiagonal (k : ℕ),
+      ((n - ij.1)! * (n - ij.2)! : F) / (n ! * (n - k)! : F) *
+      (p.coeff (n - ij.1)) * (q.coeff (n - ij.2))
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: nit:
```suggestion
      p.coeff (n - ij.1) * q.coeff (n - ij.2)
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+  ∑ k ∈ range (n + 1), (c k) • X^(n - k)
+
+local notation p " (⊞_"n ")" q:65  => finiteAdditiveConvolution n p q
+
+@[category test, AMS 26]
+theorem finiteAdditiveConvolution_comm (n : ℕ) (p q : F[X]) :
+    p (⊞_n) q = q (⊞_n) p := by
+  show ∑ a ∈_, _= ∑ a ∈_, _
+  exact sum_congr rfl fun m hm  =>
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]:
```suggestion
  exact sum_congr rfl fun m hm =>
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 8]
```diff
@@ -0,0 +1,102 @@
...
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (n : ℕ) (p : ℝ[X]) : ℝ≥0∞ :=
+  if p.Monic ∧ p.degree = n ∧ p.roots.Nodup then
+    let roots := p.roots.toFinset
+    (∑ i ∈ roots, (∑ j ∈ roots.erase i, 1 / (i - j)) ^ 2).toNNReal
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:82]: I think this is slightly nicer written as a sum over `roots.offDiag`?

Comment (eric-wieser) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:82]: You also get the `infinity` value for free if you use `Multiset.offDiag`, as that gives you a `1/0` term.

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 9]
```diff
@@ -0,0 +1,102 @@
...
+    (congr_arg₂ _) (sum_equiv (.prodComm _ _) (by simp [add_comm]) fun _ _ => by ring!) rfl
+
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (n : ℕ) (p : ℝ[X]) : ℝ≥0∞ :=
+  if p.Monic ∧ p.degree = n ∧ p.roots.Nodup then
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: I'd be tempted to drop the `n` argument and this entire condition.

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 10]
```diff
@@ -0,0 +1,102 @@
...
+    let roots := p.roots.toFinset
+    (∑ i ∈ roots, (∑ j ∈ roots.erase i, 1 / (i - j)) ^ 2).toNNReal
+  else
+    ⊤
+
+def FourProp (p q : ℝ[X]) (n : ℕ) : Prop :=
+    p.degree = n → p.roots.card = n → q.degree = n  → q.roots.card = n → p.Monic → q.Monic →
+    1 / Φ n p + 1 / Φ n q ≤ 1 / Φ n (p (⊞_n) q)
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: Should this have a docstring?

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 11]
```diff
@@ -0,0 +1,102 @@
...
+
+/--
+Is it true that if $p(x)$ and $q(x)$ are monic real-rooted polynomials of
+degree $n$, then
+$$\frac{1}{\Phi_n(p\boxplus_n q)} \ge \frac{1}{\Phi_n(p)}+\frac{1}{\Phi_n(q)}?$$
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:98]: Given the conditions in the definition of $$\Phi_n$$, this question isn't well-defined unless we first postulate that `p\boxplus_n q` is itself monic and of degree `n`; could you add a test statement to that effect?

File: FormalConjectures/OEIS/358684.lean [hunk 12]
```diff
@@ -25,6 +25,10 @@ $n$-th Fermat number exceeds $2^(2^n - k)$.
 -/
 
 
+
+namespace OeisA358684
```
Comment (eric-wieser) [inline FormalConjectures/OEIS/358684.lean]: nit: split this to its own PR.

Comment (mo271) [reply FormalConjectures/OEIS/358684.lean]: done, #2263

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 8 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:82]: I had a version that used `Finset.offDiag`, see earlier commits, but reverted that precisely because we still needed the `if` because `Multiset.offDiag` doesn't exists yet: (not does List.offDiag` in the mathlib version we are using: 
https://github.com/leanprover-community/mathlib4/blame/dec6b9345707c57cf9f737626e9f337991e633c7/Mathlib/Data/Finset/Prod.lean#L246

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: sounds good, will do

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 8 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:82]: left a TODO

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 10 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: yes, done, also for two theorems below that didn't yet have one

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 11 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:98]: done, they can be proved, but I haven't bothered cleaning up the AlphaProof proofs, but deleted them instead.

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 13]
```diff
@@ -0,0 +1,131 @@
...
+@[category test, AMS 26]
+theorem finiteAdditiveConvolution_degree (n : ℕ) (p q : ℝ[X])
+  (hp : p.degree = n) (hq : q.degree = n):
+    (p (⊞_n) q).degree = n := by
+  sorry
+
+@[category test, AMS 26]
+theorem finiteAdditiveConvolution_monic' (n : ℕ) (p q : ℝ[X]) (hn : 0 < n)
+  (hp : p.degree = n) (hq : q.degree = n) (hp : p.Monic) (hq : q.Monic) :
+    (p (⊞_n) q).Monic := by
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean:71]:
```suggestion
@[category test, AMS 26]
theorem finiteAdditiveConvolution_monic' (n : ℕ) (p q : ℝ[X]) (hn : 0 < n)
    (hp : p.degree = n) (hq : q.degree = n) (hp : p.Monic) (hq : q.Monic) :
    (p (⊞_n) q).Monic := by
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 14]
```diff
@@ -0,0 +1,131 @@
...
+  sorry
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (p : ℝ[X]) : ℝ≥0∞ :=
+  -- TODO: write this as
+  -- (∑ ij ∈ p.roots.offDiag, (1 : ℝ) / (ij.1 - ij.2)^(2 : ℝ)).toNNReal
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: Why the `toNNReal`? I think the subtraction needs to happen in ENNReal to ensure the `⊤` return value

Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: I moved it inside now, so the the result of the subtraction is in ENNReal.

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 15]
```diff
@@ -0,0 +1,131 @@
...
+  sorry
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (p : ℝ[X]) : ℝ≥0∞ :=
+  -- TODO: write this as
+  -- (∑ ij ∈ p.roots.toFinset.offDiag, 1 / ((ij.1 - ij.2).toNNReal)^2)
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: Wait, I think this is wrong; the `^2` is between the two sums in the english?

Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: it is a bit confusing, but now I have a valid version in the comment. I provide an adhoc definition of `Multiset.offDiag` here and prove equiavlence: https://github.com/mo271/formal-conjectures/blob/972c5ead991ed7f9f08ccc2d1aea1604a5fa98da/FormalConjectures/Arxiv/2602.05192/FirstProof4.lean#L118

It might be a bit surprising there the `^2` is, but I think it is correct. 
Of course we cannot take the subtraction  in `ℝ≥0∞`, because of the nonnegativity, we need to cast only after taking the square. Then it works...

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 16]
```diff
@@ -0,0 +1,131 @@
...
+  sorry
+
+/--
+For a monic polynomial $p(x)=\prod_{i\le n}(x- \lambda_i)$, define
+$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$
+and $\Phi_n(p):=\infty$ if $p$ has a multiple root.
+-/
+noncomputable def Φ (p : ℝ[X]) : ℝ≥0∞ :=
+  -- TODO: consider writing this as
+  -- `(p.roots.offDiag.map (fun ij => (1 : ℝ≥0∞) / ((ij.1 - ij.2) ^ 2).toNNReal)).sum`
```
Comment (eric-wieser) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: This still looks wrong to me, this implements

$$\Phi_n(p):=\sum_{i\le n}\sum_{j\neq i} (\frac1{\lambda_i-\lambda_j})^2$$

not

$$\Phi_n(p):=\sum_{i\le n}(\sum_{j\neq i} \frac1{\lambda_i-\lambda_j})^2$$

Comment (eric-wieser) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: I guess your claim is that these end up coinciding?

Comment (eric-wieser) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: Either way, this isn't a reasonable interpretation of the prose any more, so I think we should drop the TODO; sorry for the noise!

Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: I think these two expressions are mathematically identical (even if this looks wrong)! The implementation is correct because the mixed terms in the expansion sum to zero.

If you expand the square of the sum, you get the sum of squares plus cross-terms. The cross-terms for any distinct triplet $i, j, k$ are:

$$
\frac{1}{(\lambda_i-\lambda_j)(\lambda_i-\lambda_k)} + \frac{1}{(\lambda_j-\lambda_k)(\lambda_j-\lambda_i)} + \frac{1}{(\lambda_k-\lambda_i)(\lambda_k-\lambda_j)} 
$$
If you combine these fractions over a common denominator $D = (\lambda_i-\lambda_j)(\lambda_j-\lambda_k)(\lambda_k-\lambda_i)$, the signs align such that the numerator becomes a telescoping sum:
$$
\frac{-(\lambda_j-\lambda_k) - (\lambda_k-\lambda_i) - (\lambda_i-\lambda_j)}{D} = \frac{0}{D} = 0
$$

Hence we are left with

$$
\sum_{i} \left( \sum_{j \neq i} \frac{1}{\lambda_i - \lambda_j} \right)^2 = \sum_{i} \sum_{j \neq i} \frac{1}{(\lambda_i - \lambda_j)^2}
$$

I feel like there should be a name for this identity, but couldn't find it.
This is the informal argument, linked in a commit above is already a formal (unreadable AlphaProof) proof. 
[Here](https://sagecell.sagemath.org/?z=eJyVlE1vGjEQhu-R8h9e4BBvVZZA6AUBl-TQQw8VkdpDlK4M6wUjr5f6g3aF-O8d7y6BpoG2llarGXveecYeOxUZNkZql3CdJlthZFYmMhXaSVcyHY2ur0Cjg36MB5FJLWDLfF4oucCWG8nnSlgons9TntwijuODsdPd_r6OJg8mUNI6RjEsuzkskfubCFlhICE1DNdLQTmj66tD1kGM-0JbZ_zC4dPHxxGszxMJVv1369ZE7tHvsUZQontIv44QfRs0-VeW8lMEq-0wWDDryCf5XMc9rZ9rnPUpDmRGfK0J1hEp4ijxB3g9dYJ_d4o_O-KfwLMz9C_w5g34YL0FH_gu8f8P-zDGZyOcK-lH_QG3EjDCeuVsvWRTzSZV97CVyxXL2uPVYHrPrYAm5p3ej3vkaEeN-rm49ng-pcMFe_Q5igz2u-dGpKFMG43GvflR4rdgOte_K5spqc9O1KVO5Vamnqsm0cUc5lWODj7E-FLdEwgKV3RPDjNfBTzVHluZb1S4SJlXikVwRdjvhcAjX4pgiZ8bum4I34LrhVBwwuTNvqYyy4QR5KY9DDXS-QaK17L_VvnDUY2FPe6GPozQaEmRXqj9SPIyG9ztbhvvMLytmqWDmddVO-nJHVgoqSx8KAvOlOQcvqfWKfxyVXVQ4d3GOyyFs6DXpsQPemxapHT-ERpGvwBHF2AW&lang=sage&interacts=eJyLjgUAARUAuQ==) is an exploration in symbolic algebra (only for fixed finite $n$ of course...)

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean [hunk 17]
```diff
@@ -0,0 +1,131 @@
...
+  -- when `Multiset.offDiag` becomes available.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]:
```suggestion
```

File: FormalConjectures/Arxiv/2602.05192/FirstProof4.lean (hunk 16 above)
Comment (mo271) [reply FormalConjectures/Arxiv/2602.05192/FirstProof4.lean]: > Either way, this isn't a reasonable interpretation of the prose any more, so I think we should drop the TODO; sorry for the noise!

Yeah, that was also my conclusion when I first noticed that this formulation is also possible, hence I first had the commit with the `offDiag` and then changed back to the version without.

Now removing the comment from the code
